US08022076B2
A suspension of 3H-thieno[2,3-d]pyrimidin-4-one (7.68 g, 0.056 mol) in glacial acetic acid (75 ml) was treated with bromine (7.5 ml) and stirred at ambient temperature for 4 hours. The resulting solid was collected by filtration, washed with water and dried in vacuo to give 6-bromo-3H-thieno[2,3-d]pyrimidin-4-one as a light brown solid (11.64 g), which was used without further purification.

reactant | 3H-thieno[2,3-d]pyrimidin-4-one | 0.056 mol, 7.68 g | N1=CNC(C2=C1SC=C2)=O | C6H4N2OS
reactant | bromine | 7.5 ml | BrBr | Br2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
product | 6-bromo-3H-thieno[2,3-d]pyrimidin-4-one | 11.64 g | BrC1=CC2=C(N=CNC2=O)S1 | C6H3BrN2OS
